US07642263B2
Methyl 3-{[(1S)-2-hydroxy-1-methylethyl]oxy}-5-[(phenylethyl)oxy]benzoate
Benzyl bromide (1.89 g, 7.20 mmol) was added to a mixture of methyl 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate (1.55 g, 6.86 mmol) and potassium carbonate (1.89 g, 0.014 mol) in DMF (16 mL) and the reaction stirred at RT for 20 hours. Ethyl acetate (40 mL) was added and the mixture washed with water (40 mL), saturated sodiumbicarbonate solution (40 mL), brine (40 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give a red oil which was chromatographed on silica, eluting with a gradient of 0-100% ethyl acetate in isohexane, to give the desired compound (1.7 g).

reactant | Benzyl bromide | 7.20 mmol, 1.89 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate | 6.86 mmol, 1.55 g | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](CO)C | C11H14O5
reactant | potassium carbonate | 0.014 mol, 1.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | Methyl 3-{[(1S)-2-hydroxy-1-methylethyl]oxy}-5-[(phenylethyl)oxy]benzoate | 1.7 g | OC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OCCC1=CC=CC=C1 | C19H22O5
